US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-phenylacetamide
Hydrolysis was performed by stirring N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)2-phenylacetamide (0.186 g, 0.207 mmol) in 4 mL of 4.0 N commercial solution of HCl in dioxane and 2 mL of 6.0 N aqueous HCl, at room temperature for 18 hours. The title compound was purified by preparative HPLC (0.039 g, 48% yield): 1H NMR (DMSO-d6) δ 13.4 (br s, 1H), 10.4 (s, 1H), 8.7 (s, 1H), 8.4 (br s, 1H), 8.2 (s, 1H), 8.1 (dd, 1H), 7.7-7.6 (m, 3H), 7.5 (t, 1H), 7.4-7.2 (m, 4H); ES-MS (m/z) 395 [M+1]+.

reactant | N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)2-phenylacetamide | 0.207 mmol, 0.186 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(CC1=CC=CC=C1)=O | C47H40N6O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | 6.0 N, 2 mL | Cl | ClH
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-phenylacetamide | 48% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(CC1=CC=CC=C1)=O | C23H18N6O
